US07456200B2
3-Methylsulfanyl-benzoic acid methyl ester (684 mg, 3.8 mmol) and 1N NaOH (5.6 mL, 5.6 mmol) in methanol (8 mL) and THF (8 mL) were heated at 70° C. for 1 hour. The reaction mixture was concentrated and then the residue was diluted with water. After acidification with 1N HCl to pH˜2, the aqueous layer was extracted with ethyl acetate and then washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 3-methylsulfanyl-benzoic acid (616 mg, 97%, white solid). 1H NMR (DMSO), δ (ppm): 13.1 (bs, 1H), 7.76 (s, 1H), 7.70 (d, 1H), 7.51 (d, 1H), 7.44 (t, 1H), 2.52 (s, 3H).

reactant | 3-Methylsulfanyl-benzoic acid methyl ester | 3.8 mmol, 684 mg | COC(C1=CC(=CC=C1)SC)=O | C9H10O2S
reactant | NaOH | 5.6 mmol, 1N, 5.6 mL | [OH-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-methylsulfanyl-benzoic acid | 616 mg, 97% | CSC=1C=C(C(=O)O)C=CC1 | C8H8O2S
